US07723367B2
2-thiophen-2-ylnicotinonitrile
To an oven-dried, N2-purged, 50-mL, round-bottomed flask containing a magnetic stir bar were added cesium fluoride (1.34 g, 8.80 mmol), bis(tri-t-butylphosphine)palladium (66.0 mg, 0.13 mmol), and 2-chloro-3-cyanopyridine (559 mg, 4.00 mmol). The flask was sealed with a septum and purged with dry N2 atmosphere. Anhydrous dioxane (4 mL) was added via syringe. Neat 2-(tri-n-butylstannyl)thiophene (2.38 g, 2.02 mL, 6.38 mmol) was added via syringe. The reaction mixture was heated to ˜90° C. in an oil bath for 18 hours. After cooling to room temperature, ethyl acetate (15 mL) was added and the mixture was filtered through a pad of silica. The filtrate was concentrated by rotary evaporator to give a brown oil. The product was purified by flash chromatography (silica gel: 25% ethyl acetate, 75% hexanes=product Rf ˜0.4) to give ˜750 mg of the title compound as a beige solid that was used without further purification for the next step. MS (ESI−) m/z 186.7 (M+H)+; 1H NMR (CDCl3) δ 7.19 (dd, J=5.1, 4.0 Hz, 1H), 7.23-7.27 (m, 1H), 7.56 (dd, J=5.1, 1.0 Hz, 1H), 8.00 (dd, J=8.1, 2.0 Hz, 1H), 8.27 (d, J=4.1 Hz, 1H), 8.74 (dd, J=4.7, 1.7 Hz, 1H).

reactant | cesium fluoride | 8.80 mmol, 1.34 g | [F-].[Cs+]
reactant | 2-chloro-3-cyanopyridine | 4.00 mmol, 559 mg | ClC1=NC=CC=C1C#N | C6H3ClN2
reactant | 2-(tri-n-butylstannyl)thiophene | 6.38 mmol, 2.02 mL, 2.38 g | C(CCC)[Sn](C=1SC=CC1)(CCCC)CCCC
catalyst | bis(tri-t-butylphosphine)palladium | 0.13 mmol, 66.0 mg | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
product | 2-thiophen-2-ylnicotinonitrile | ˜750 mg | S1C(=CC=C1)C1=C(C#N)C=CC=N1 | C10H6N2S
